US07932262B2
To 8-methoxy-4-methylquinazolin-2-ol was added POCl3 and the mixture was added heated to 100° C. for 16 h when the reaction went to completion. To the reaction mixture was added ice and water and the precipitated solid was filtered and dried on the high vacuum overnight to give 2-chloro-8-methoxy-4-methylquinazoline. ES/MS m/z 209 (MH+).

reactant | 8-methoxy-4-methylquinazolin-2-ol | COC=1C=CC=C2C(=NC(=NC12)O)C | C10H10N2O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 2-chloro-8-methoxy-4-methylquinazoline | ClC1=NC2=C(C=CC=C2C(=N1)C)OC | C10H9ClN2O
